US04242507
N-Benzyloxycarbonyl-S-benzyl-L-cysteine (1.73 g) and glycine ethyl ester hydrochloride (0.70 g) are dissolved in dimethylformamide (12 ml), and thereto are added triethylamine (1.40 ml) and further ethyl 2-methanesulfonyloxyimino-2-cyanoacetate (1.1 g). The mixture is allowed to stand at room temperature for 14 hours. To the reaction mixture are added water and ethyl acetate, and the ethyl acetate layer is separated, washed with water, 1 N hydrochloric acid, a saturated aqueous sodium hydrogen carbonate and water in order and then dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off and the resulting residue is crystallized from ethanol-petroleum ether, separated by filtration and dried to give N-(N-benzyloxycarbonyl-S-benzyl-L-cysteinyl)glycine ethyl ester (0.5 g), melting point: 93°-95° C. The product is identified with an authentic sample by infrared spectrum.

reactant | N-Benzyloxycarbonyl-S-benzyl-L-cysteine | 1.73 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CSCC1=CC=CC=C1)C(=O)O | C18H19NO4S
reactant | glycine ethyl ester hydrochloride | 0.70 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-methanesulfonyloxyimino-2-cyanoacetate | 1.1 g | CS(=O)(=O)ON=C(C(=O)OCC)C#N | C6H8N2O5S
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(N-benzyloxycarbonyl-S-benzyl-L-cysteinyl)glycine ethyl ester | 0.5 g | C(C)OC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CSCC1=CC=CC=C1)=O)=O | C22H26N2O5S
